Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.45688642024
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:3]#[C:4][H:5].[H:1][C:2]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],5.56603255053
[O:1]=[C:2]=[C:3]([H:4])[H:5].[O:6][C:7]#[C:8][H:9]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9],0.4632738515199999
[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:13]=[C:14]([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]=[C:14]([H:15])[H:16],-1.7990365472599998
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][O:9][H:10]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][O:9][H:10],3.88957117734
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2].[O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],5.92971337673
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11],1.3804313076
[C:3]([H:4])(=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2]>>[H:1][O:2][C@:3]([H:4])([C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-2.9255582387
[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-0.70468538635
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:8][O:9].[H:7]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][O:9],-2.9101679141
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],2.56097472031
[H:1][C:2]#[C:3][H:4].[O:5][O:6][H:7]>>[H:1][C:2]=[C:3]([H:4])[O:5][O:6][H:7],-0.36203343933
[H:1][O:2]/[C:3]([H:4])=[C:5]1\[O:6][C:7]([H:8])([H:9])[C:10]1[H:11]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:10]([C:7]([O:6])([H:8])[H:9])[H:11],1.05299743165
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])([H:6])([C:7][H:13])[H:12].[H:1][C:2]#[C:3][C:8]([H:9])([C:10])[H:11],7.146654001739999
[C:4]([H:5])[H:6].[O:1][C:2]#[C:3][C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],-5.67573206161
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][H:8]>>[H:1][O:2][C:3]=[C:4]([H:5])[H:6].[O:7][H:8],3.73851834462
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13]>>[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12],3.19498191092
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-1.1472407798100002
[H:1][O:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],3.93497920799
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9],4.43086877626
[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])[O:5][H:6]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.56519870448
[C:1]#[C:2][C:3]([H:4])[O:5][O:6][C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3]([H:4])[O:5][O:6].[C:7]([H:8])([H:9])[H:10],3.41667252068
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:11].[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:12]([H:13])[H:14],1.7615150220599998
[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2][O:4][C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:3],4.62693446216
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])[H:12]>>[C:8]=[C:9]([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:10],6.80797125584
[O:1][C:2]([O:3][H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:3][H:4],2.21266880037
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([O:7][H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],4.464962884369999
[H:1][C:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:10][C:11]([H:12])([H:13])[H:14].[H:9]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.04989691568
